US07569536B2
Concentrated hydrochloric acid (1.28 ml, 15.4 mmol) and anhydrous tin dichloride (1.57 g, 8.30 mmol) were sequentially added at 0° C. to a methanol (7 ml) solution of 1-(2-nitro-4-(trifluoromethyl)phenyl)indoline (730 mg, 2.37 mmol), obtained as described in Referential Example 19-1. The resulting mixture was warmed to room temperature, and stirred for eight hours. A saturated aqueous solution of sodium bicarbonate was added to the mixture. The resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50 g, hexane/ethyl acetate=10/1). Thus, 1-[2-amino-4-(trifluoromethyl)phenyl]indoline (619 mg, 93.9%) was yielded as a red-orange colored oily material.

reactant | hydrochloric acid | 15.4 mmol, 1.28 ml | Cl | ClH
reactant | tin dichloride | 8.30 mmol, 1.57 g | [Sn](Cl)Cl
reactant | 1-(2-nitro-4-(trifluoromethyl)phenyl)indoline | 2.37 mmol, 730 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCC2=CC=CC=C12 | C15H11F3N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | 1-[2-amino-4-(trifluoromethyl)phenyl]indoline | 619 mg, 93.9% | NC1=C(C=CC(=C1)C(F)(F)F)N1CCC2=CC=CC=C12 | C15H13F3N2
